US06447656B1
11-(Diphenylmethylthio)-undecanoic Acid
A solution of 11-mercaptoundecanoic acid (300 mg, 1.3 mmol) and diphenylmethanol (255 mg, 1.3 mmol) in trifluoroacetic acid was stirred at RT, under nitrogen for 30 min. Trifluoroacetic acid was evaporated under high vacuum, the residue dissolved in ether (20 ml), washed with water (3×20 ml), dried and evaporated. The residue was purified by chromatography (light pet—ethyl acetate, 80:20-50:50) on silica to give the desired product (220 mg, 42%), m.p. (Found C, 74.55; H, 8.77. C24H34O2S requires C, 74.96; H, 8.39) ms (EI) 384.

reactant | 11-mercaptoundecanoic acid | 1.3 mmol, 300 mg | SCCCCCCCCCCC(=O)O | C11H22O2S
reactant | diphenylmethanol | 1.3 mmol, 255 mg | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 11-(Diphenylmethylthio)-undecanoic Acid | 220 mg, 42% | C1(=CC=CC=C1)C(SCCCCCCCCCCC(=O)O)C1=CC=CC=C1 | C24H32O2S
